US08048887B2
To a 150 mL sealed tube was added 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate (1.252 g, 3 mmol), 3-borono-4-methoxybenzoic acid (0.882 g, 4.50 mmol), cesium carbonate (1.466 g, 4.50 mmol), tetrakis(triphenyl phosphine)palladium(0) (0.069 g, 0.060 mmol), dioxane (18 mL) and water (3.60 mL). The vial was sealed and heated in an oil bath over night at 85° C. The reaction mixture was then filtered through CELITE® and concentrated in vacuo. Cold 0.5N HCl was then added and the heterogeneous mixture was stirred for 30 minutes. The resulting product, a white solid was filtered, washed with water and dried overnight to give a quantitative yield of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methoxy benzoic acid which was carried on without further purification. LCMS m/z 420.88 (M+H), Rt 2.002 min., 88% purity.

reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 3 mmol, 1.252 g | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)(F)F | C17H11F4NO5S
reactant | 3-borono-4-methoxybenzoic acid | 4.50 mmol, 0.882 g | B(O)(O)C=1C=C(C(=O)O)C=CC1OC | C8H9BO5
reactant | cesium carbonate | 4.50 mmol, 1.466 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.60 mL | O | H2O
product | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methoxy benzoic acid | quantitative yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2OC | C24H18FNO5
